US08609675B2
A mixture of tert-butyl 4-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)pyrazolo[1,5-a]pyrimidin-5-yl)-5,6-dihydropyridine-1(2H)-carboxylate (Int-9e, 5.05 g) and 10% Pd/C (300 mg) in EtOAc was stirred at 45° C. under hydrogen (balloon pressure) for three hours. After filtration and concentration, tert-butyl 4-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)pyrazolo[1,5-a]pyrimidin-5-yl)piperidine-1-carboxy late (Int-9f) (5.1 g) was obtained as an oil. LC/MS: m/z=578.3 (M+H+).

reactant | tert-butyl 4-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)pyrazolo[1,5-a]pyrimidin-5-yl)-5,6-dihydropyridine-1(2H)-carboxylate | 5.05 g | C[Si](CCOCN(C1=CC(=NC=2N1N=CC2)C2=CCN(CC2)C(=O)OC(C)(C)C)COCC[Si](C)(C)C)(C)C | C28H49N5O4Si2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 300 mg | [Pd] | Pd
product | tert-butyl 4-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)pyrazolo[1,5-a]pyrimidin-5-yl)piperidine-1-carboxy late | 5.1 g | C[Si](CCOCN(C1=CC(=NC=2N1N=CC2)C2CCN(CC2)C(=O)OC(C)(C)C)COCC[Si](C)(C)C)(C)C | C28H51N5O4Si2
